US07253165B2
Synthesis of 2-(4-benzo[b]thiophen-3-yl-phenoxymethyl)-oxirane (Scheme III, Compound 7)
Cool a mixture of sodium hydride (585 mg, 60% dispersion in mineral oil, 14.6 mmol) in dimethylformamide (20 mL, anhydrous), with an ice bath, under a nitrogen atmosphere. Add a solution of 4-benzo[b]thiophen-3-yl-phenol (3.0 g, 13.3 mmol) in dimethylformamide (20 mL) over a period of 5 minutes. Reaction mixture has noticeable gas evolution and is a yellow mixture. Stir at room temperature for 0.5 hours and cool via an ice bath to give a yellow solution. Rapidly, add a solution of (2R)-(−)-glycidyl 3-nitrobenzenesulfonate (3.78 g, 14.6 mmol) in dimethylformamide (20 mL) and stir at 0° C. for 35 minutes. The reaction mixture is a red-orange color. Stir reaction mixture at room temperature overnight. Pour the reaction mixture into cold (0° C.) water (300 mL) and extract with ethyl acetate (3×100 mL). Combine the organic layers, wash with water (100 mL), saturated sodium chloride (100 mL), dry (MgSO4) and concentrate (in vacuo) to give a brown oil. The brown oil is purified by column chromatography (dichloromethane) to give a light green/clear, viscous oil. The oil is dried (0.5 mm Hg) at room temperature for 3 hours to give the title compound as a solid (3.19 g, 85% Yield).

reactant | sodium hydride | 14.6 mmol, 585 mg | [H-].[Na+]
reactant | 4-benzo[b]thiophen-3-yl-phenol | 13.3 mmol, 3.0 g | S1C2=C(C(=C1)C1=CC=C(C=C1)O)C=CC=C2 | C14H10OS
reactant | (2R)-(−)-glycidyl 3-nitrobenzenesulfonate | 14.6 mmol, 3.78 g | C1[C@@H](O1)COS(=O)(=O)C2=CC=CC(=C2)[N+](=O)[O-] | C9H9NO6S
reactant | water | 300 mL | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(4-benzo[b]thiophen-3-yl-phenoxymethyl)-oxirane | 3.19 g, 85% Yield | S1C2=C(C(=C1)C1=CC=C(OCC3OC3)C=C1)C=CC=C2 | C17H14O2S
